US08748418B2
A mixture of commercially available 2-chloro-5,6,7,8-tetrahydroquinoline-3-carbonitrile [CAS no 65242-27-5] (1 g, 5.19 mmol), zinc dust (activated) (602 mg, 9.2 mmol) and sodium acetate trihydrate (694 mg, 479 μl, 5.1 mmol) in acetic acid (5.19 g, 4.95 ml, 86.4 mmol) was stirred at 60° C. for 2 hours. Water (2.5 ml) was added and the mixture stirred at 60° C. for another 5 hours. After cooling to 23° C., the mixture was basified with aqueous 1 M NaOH solution, filtered through Celite®, the filtrate extracted with THF, the organic layers dried over Na2SO4 and the solvent evaporated leaving a yellow liquid. The crude material was purified by silica gel flash chromatography with n-heptane/ethyl acetate to give the 5,6,7,8-tetrahydroquinoline-3-carbonitrile as a white solid (433 mg, 53% yield). MS (ISP): m/z=159.1 [(M+H)+].

reactant | 2-chloro-5,6,7,8-tetrahydroquinoline-3-carbonitrile | ClC1=NC=2CCCCC2C=C1C#N | C10H9ClN2
reactant | sodium acetate trihydrate | 5.1 mmol, 479 μl, 694 mg | O.O.O.C(C)(=O)[O-].[Na+]
reactant | acetic acid | 86.4 mmol, 4.95 ml, 5.19 g | C(C)(=O)O | C2H4O2
reactant | NaOH | 1 M | [OH-].[Na+]
catalyst | zinc | 9.2 mmol, 602 mg | [Zn] | Zn
solvent | Water | 2.5 ml | O | H2O
product | 5,6,7,8-tetrahydroquinoline-3-carbonitrile | 433 mg, 53% yield | N1=CC(=CC=2CCCCC12)C#N | C10H10N2
